US05830835
Di(9-decen-1-yl) Maleate
9-Decen-1-ol (Rosalva) in the amount of 50.00 g (0.320 mol) and maleic anhydride in the amount of 12.55 g (0.128 mol), toluene in the amount of 200 ml, and p-toluenesulfonic acid in the amount of 1.24 g (6.40 mmol) were combined in a flask fitted with a condenser, Dean-Stark trap, and argon inlet. The mixture was heated to reflux for 18 h. The cooled mixture was concentrated by rotary evaporation and then stripped by Kugelrohr distillation to remove excess alcohol. Purity of the product was determined by thin layer chromatography and the structure confirmed by 1H and 13C NMR.

reactant | 9-Decen-1-ol | C(CCCCCCCC=C)O | C10H20O
reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | Di(9-decen-1-yl) Maleate | C(\C=C/C(=O)OCCCCCCCCC=C)(=O)OCCCCCCCCC=C | C24H40O4
